US04362728
2-[2-(2,2,2-Trifluoroethyl)guanidino]-4-[2-(3-methylsulphonyl-2-methylisothioureido)ethylthiomethyl]-thiazole (0.4 g.) was dissolved in ethanolic methylamine (33% w/v 15 ml.) and allowed to stand at room temperature for 64 hours. The solvent was evaporated and the residual gum was purified by preparative thin layer chromatography using chloroform/methanol/ammonia 8:2:0.2 v/v/v as developing solvent. The appropriate zone of the chromatogram was isolated and extracted with methanol/ammonia 10:1 v/v (50 ml.). The solvent was evaporated and the residual gum was dissolved in acetonitrile, filtered and the filtrate evaporated. The residual gum was dissolved in methanol and treated with a solution of excess fumaric acid in methanol. The solvent was evaporated and the residue triturated with acetonitrile to give 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[2-(2-methylsulphonyl-3-methylguanidino)ethylthiomethyl]thiazole as a cream solid (0.29 g.), m.p. 118°-123° (decomp.), containing 1.5 molar equivalents of fumaric acid.

reactant | 2-[2-(2,2,2-Trifluoroethyl)guanidino]-4-[2-(3-methylsulphonyl-2-methylisothioureido)ethylthiomethyl]-thiazole | 0.4 g | FC(CN=C(NC=1SC=C(N1)CSCCNC(SC)=NS(=O)(=O)C)N)(F)F | C12H19F3N6O2S4
reactant | methylamine | 15 ml | CN | CH5N
product | 2-[2-(2,2,2-trifluoroethyl)-guanidino]-4-[2-(2-methylsulphonyl-3-methylguanidino)ethylthiomethyl]thiazole | FC(CN=C(NC=1SC=C(N1)CSCCNC(=NS(=O)(=O)C)NC)N)(F)F | C12H20F3N7O2S3
